US06495541B1
(rac)-3-Phenyl-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-6-one (20)
In a manner similar to that described for the preparation of methyl 3-(nitroethyl)-indole-4-carboxylate D above, methyl indole4-carboxylate (85 mg, 0.49 mmol) and nitrostyrene (80 mg, 0.54 mmol) were heated at 160° C. in a sealed tube for 12 h. The product was isolated by silica gel chromatography as a brown oil, 132 mg (83%). The intermediate nitro alkane was reduced/cyclized as described to give (rac)-3-phenyl-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-6-one as a white solid, 51.4 mg (48%, after chromatography and recrystallization). mp 201-203° C.; 1H NMR (300 MHz, d6-DMSO) δ3.73 (m, 2H), 4.42 (m, 1H), 7.28 (br m, 8H), 7.64 (d, 1H, J=7.9 Hz), 7.77 (d, 1H, J=7.9 Hz), 11.32 (br s, 1H); HRMS (FAB, MH+) Calcd for C17H15N2O: 263.1184, Found: 263.1180; Anal. (C17H14N2O.0.25 H2O) C, H, N.

reactant | methyl 3-(nitroethyl)-indole-4-carboxylate | [N+](=O)([O-])CCC1=CNC=2C=CC=C(C12)C(=O)OC | C12H12N2O4
reactant | methyl indole4-carboxylate | 0.49 mmol, 85 mg | N1C=CC=2C(=CC=CC12)C(=O)OC | C10H9NO2
reactant | nitrostyrene | 0.54 mmol, 80 mg | [N+](=O)([O-])C=CC1=CC=CC=C1 | C8H7NO2
product | (rac)-3-Phenyl-3,4,5,6-tetrahydro-1H-azepino[5,4,3-cd]indol-6-one | C1(=CC=CC=C1)C1CNC(C=2C=3C1=CNC3C=CC2)=O | C17H14N2O
